US09062013B2
Ethyl trans-2,2-dimethyl-3-m-tolyl-cyclopropanecarboxylate
Isopropyltriphenylphosphonium iodide (17.3 g, 40 mmol) and ethyl 3-methylcinnamate (7.6 g, 40 mmol) were reacted as described under General Procedure B to furnish the title compound (7.0 g, 75%) as a colorless oil. 1H NMR (300 MHz, CDCl3) δ 7.17 (t, J=7.4 Hz, 1H), 7.03-6.95 (m, 3H), 4.18 (q, J=7.2 Hz, 2H), 2.66 (d, J=5.8 Hz, 1H), 2.33 (s, 3H), 1.93 (d, J=5.8 Hz, 1H), 1.38 (s, 3H), 1.30 (t, J=7.2 Hz, 3H), 0.93 (s, 3H).

reactant | Isopropyltriphenylphosphonium iodide | 40 mmol, 17.3 g | [I-].C(C)(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | ethyl 3-methylcinnamate | 40 mmol, 7.6 g | CC=1C=C(C=CC(=O)OCC)C=CC1 | C12H14O2
product | Ethyl trans-2,2-dimethyl-3-m-tolyl-cyclopropanecarboxylate | 7.0 g, 75% | CC1([C@H]([C@@H]1C=1C=C(C=CC1)C)C(=O)OCC)C | C15H20O2
